US08557872B2
Step 2: Synthesis of 2-amino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide
N-Methoxy-N-methyl-2-nitro-4-trifluoromethyl-benzamide (2.54 g, 9.12 mmol) was reacted with Pd/C (441 mg) under hydrogen atmosphere as described above to yield title compound.

reactant | N-Methoxy-N-methyl-2-nitro-4-trifluoromethyl-benzamide | 9.12 mmol, 2.54 g | CON(C(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O)C | C10H9F3N2O4
catalyst | Pd/C | 441 mg | [Pd] | Pd
product | 2-amino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | NC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C10H11F3N2O2
